* C:\Users\Michal\Documents\Elektronika\Kicad\Projekty\HIGH_SPEED_OP_AMP_PCB_LAYOUT_COMP1\Symulacja drogi pomiaru2_21052026.asc
* Generated by LTspice 26.0.1 for Windows.
R1 in N001 50
T1 in 0 J2 0 Td=0.5n Z0=50
L1 J2 in_opamp 6.8n Rser=1m
L2 N003 J3 7.2n Rser=1m
C1 J3 0 3.26p
R2 N003 out_opamp 50
T2 J3 0 out 0 Td=0.5n Z0=50
C2 in_opamp 0 2.89p
X§U1 0 N002 +5 -5 out_opamp LM7171 ;§pnba 3)2)4)5)6
V2 +5 0 6 Rser=10m
V3 0 -5 6 Rser=10m
R3 out_opamp N002 510
R4 N002 in_opamp 510
R5 out 0 1Meg
C3 out 0 25p
V1 N001 0 AC 1 1
R6 out 0 50
R7 J2 0 50
R8 in_opamp NC_01 50
C4 J2 0 25p
.ac dec 1000 1k 450meg
* Library below included based on ModelFile attribute of instance X§U1 (C:\Users\Michal\Documents\LTspiceXVII\lib\sym\AutoGenerated\LM7171.asy)
.lib C:\Users\Michal\AppData\Local\LTspice\lib\sym\lm7171.lib
.backanno
.end
